* source HV-POWER-SUPPLY
X_Q2         N15077 N15073 N15112 awbmmbt3904 PARAMS:                          
+                   
X_M1         N15172 N15077 N15059 IRF840
D_D1         N15112 N15077 BZX84C15/ZTX 
X_U1         N20488 N21635 N14756 0 N15096 TL321/5_1/TI
V_V1         N15172 0 DC 350V AC 1Vac 
C_C1         0 N15172  680u  TC=0,0 
C_C2         0 N15172  100n  TC=0,0 
R_R1         N14756 N15172  100k TC=0,0 
X_R2         0 N21635 N14756 POT PARAMS: SET=0.1 VALUE=100k
C_C3         0 N14756  10uF  TC=0,0 
C_C4         N14756 0  100n  TC=0,0 
R_R4         N20142 N15096  100 TC=0,0 
R_R5         N15077 N15172  470k TC=0,0 
R_R6         N15112 N15059  47 TC=0,0 
R_R7         N15059 N15073  3.3k TC=0,0 
R_R8         N15052 N15112  402k TC=0,0 
R_R9         0 N15052  10k TC=0,0 
R_R13         0 N15073  330k TC=0,0 
X_M2         N15077 N20142 N22486 IRF840
C_C7         N21635 N15096  10n  TC=0,0 
C_C8         N15112 N15052  10p  TC=0,0 
R_R15         N15052 N20488  10k TC=0,0 
R_R16         0 N22486  2.7k TC=0,0 
D_D4         0 N20488 BAT54WT1G 
C_C9         0 0  10p  TC=0,0 
X_U2         N14756 0 LM4040_ND10P0 PARAMS: TOL=0
R_R17         N15096 N15096  10k TC=0,0 
C_C10         N15077 N15112  1n  TC=0,0 
R_R14         N15112 N24332  330 TC=0,0 
R_R19         N24986 N15112  750 TC=0,0 
C_C12         0 N24986  470p  TC=0,0 
R_R20         0 N24332  {Res} TC=0,0 
.PARAM  res=10k
